US07351836B2
a) 4-Acetylamino-N-tert-butylbenzenesulfonamide
To a suspension of 4-acetylaminobenzenesulfonyl chloride (10 g, 43 mmol) in DME (103 mL) is added, at 0° C., tert-butylamine (9 mL, 86 mmol) in DME (103 mL). Next, the reaction mixture is stirred for 4 h at reflux. The solvent is removed and CHCl3 is added. The resulting suspension is filtered and the solid is washed with CHCl3, H2O and Et2O. The solid obtained is dried in vacuo to give 8.0 g of the product as a white solid (yield: 68%).

reactant | 4-acetylaminobenzenesulfonyl chloride | 43 mmol, 10 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | tert-butylamine | 86 mmol, 9 mL | C(C)(C)(C)N | C4H11N
solvent | DME | 103 mL | COCCOC | C4H10O2
solvent | DME | 103 mL | COCCOC | C4H10O2
product | 4-Acetylamino-N-tert-butylbenzenesulfonamide | 8.0 g, yield: 68% | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C12H18N2O3S
